US04491548
Alternatively, glycine ethyl ester hydrochloride (35.7 g, 0.256 mole) was suspended in dry acetonitrile (300 ml) containing phosgene (50.7 g, 0.512 mole) and the reaction mixture was refluxed. A few drops of dry pyridine was added after 1 hr. of refluxing. Unreacted glycine ethyl ester hydrochloride was filtered off and dry toluene (300 ml) was added then acetonitrile was distilled off. The toluene solution was refluxed for 1 hr. to obtain glycine ethyl ester isocyanate (IR 2250 cm-1). This isocyanate was reacted, without further purification, with anhydrous methanol.

reactant | glycine ethyl ester hydrochloride | 0.256 mole, 35.7 g | Cl.C(C)OC(CN)=O
reactant | phosgene | 0.512 mole, 50.7 g | C(=O)(Cl)Cl | CCl2O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
catalyst | pyridine | A few drops | N1=CC=CC=C1 | C5H5N
product | glycine ethyl ester isocyanate | [N-]=C=O.C(C)OC(CN)=O | InChI=1S/C4H9NO2.CNO/c1-2-7-4(6)3-5;2-1-3/h2-3,5H2,1H3;/q;-1
